US05589492
Ethyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-fluoropropanoate
A solution of ethyl (E)-3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-fluoropropenoate (3.79 g) in ethanol (80 mL) was hydrogenated over 10% Palladium-charcoal (0.74 g) at room temperature and pressure for 3 hrs. The mixture was filtered, concentrated in vacuo and the residue chromatographed twice on silica gel, firstly with 10% ethyl acetate in dichloromethane and then with 25% ethyl acetate in hexane as eluents to afford a gum. Crystallisation from ethyl acetate-hexane afforded the title compound, mp 65°-7° C.

reactant | ethyl (E)-3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-fluoropropenoate | 3.79 g | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)/C=C(\C(=O)OCC)/F | C21H21FN2O4
solvent | ethanol | 80 mL | C(C)O | C2H6O
catalyst | Palladium-charcoal | 0.74 g | [Pd] | Pd
product | Ethyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-fluoropropanoate | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)OCC)F | C21H23FN2O4
